US05045228
Synthesis of β-acetoxybutanoic acid
In a liquid mixture comprising 15 ml of water, 15 ml of ethanol and sodium hydroxide was dissolved 4.0 of ethyl (R)-β-hydroxybutanoate, and the solution was refluxed under heating, cooled and passed through an ion exchange resin (Amberlite1/2 IR-120B). The solvent was removed under a reduced pressure, 10 ml of anhydrous pyridine and 3 ml of anhydrous acetic acid were added to the residue, and the mixture was stirred at room temperature overnight. Dilute hydrochloric acid was added to the reaction liquid to adjust the pH value to 1, and the reaction liquid was saturated with sodium chloride and extracted with chloroform. The extract was washed with a saturated aqueous sodium chloride solution and dehydrated on magnesium sulfate. Then, chloroform was removed under a reduced pressure to obtain 3.6 g of the intended compound having [α]24 of -5.7°.

reactant | water | 15 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl (R)-β-hydroxybutanoate | O[C@@H](CC(=O)OCC)C | C6H12O3
reactant | sodium chloride | [Cl-].[Na+]
reactant | ethanol | 15 ml | C(C)O | C2H6O
product | β-acetoxybutanoic acid | 3.6 g | C(C)(=O)OC(CC(=O)O)C | C6H10O4
